US04350752
A slurry of benzotriazole (11.9 g) and 30% formalin (8.3 ml) was heated to reflux in 100 ml of 25% aqueous dimethylformamide. A trace of starting material remained. The solution was treated with 1.0 ml of 10% aqueous sodium hydroxide and heated to reflux again. An aqueous ethyl acetate extractive work up afforded 1-(hydroxymethyl)benzotriazole (8.65 g).

reactant | benzotriazole | 11.9 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | formalin | 8.3 ml | C=O | CH2O
reactant | sodium hydroxide | 1.0 ml | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 1-(hydroxymethyl)benzotriazole | 8.65 g | OCN1N=NC2=C1C=CC=C2 | C7H7N3O
